US07790720B2
To a solution of 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylic acid i106 (1.6 mmol, 1 eq, 0.5 g), triethylamine (3.2 mmol, 2 eq, 0.45 ml) in dichloromethane (20 ml) is added 1-hydroxybenzotriazole (0.32 mmol, 0.2 eq, 43 mg), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (1.76 mmol, 1.1 eq, 0.33 g) and morpholine (1.92 mmol, 1.2 eq, 0.17 g). The mixture is stirred at room temperature overnight. The organic layer is washed with water and with a saturated aqueous solution of ammonium chloride, then dried over magnesium sulfate and filtered. The solvent is removed under reduced pressure. The crude product is purified by flash chromatography over silicagel (eluent: dichloromethane/ethanol 99:1 to 95:5) to afford 380 mg of 4-({2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}carbonyl)morpholine i107.

reactant | 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylic acid | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)O | C14H14ClNO3S
reactant | triethylamine | 3.2 mmol, 0.45 ml, 2 eq | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 0.32 mmol, 43 mg, 0.2 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 1.76 mmol, 0.33 g, 1.1 eq | CN(CCCN=C=NCC)C | C8H17N3
reactant | morpholine | 1.92 mmol, 0.17 g, 1.2 eq | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-({2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}carbonyl)morpholine | 380 mg, Yield: 63% | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)N1CCOCC1 | C18H21ClN2O3S
